US07199243B2
A mixture of 3-pyridin-3-yl-phenol (0.86 g, 5.0 mmol), methyl 2-bromoisobutyrate (3.60 g, 20.0 mmol), and K2CO3 (2.76 g, 20.0 mmol) in anhydrous DMF (10 mL) was heated at 93° C. under nitrogen for 3 h. After cooling, brine (40 mL) was added and the mixture was extracted with ethyl acetate (50 mL). The separated organic layer was washed with brine, filtered, and concentrated. The oil residue was taken up in 10 mL of 3 M HCl, stirred for 10 min, diluted with brine (10 mL), and extracted with ethyl acetate (2×30 mL). The separated aqueous layer was cooled in ice/water bath, adjusted to pH 10 with solid Na2CO3, and extracted with ethyl acetate (2×40 mL). The organic extract was dried over sodium sulfate and concentrated to afford 1.09 g (80%) of 2-methyl-2-(3-pyridin-3-yl-phenoxy)-propionic acid methyl ester as a yellow oil: 1H NMR (CDCl3) δ 1.62 (s, 6H), 3.79 (s, 3H), 6.82 (dd, 1H), 7.08 (s, 1H), 7.20 (d, 1H), 7.38 (m, 2H), 7.81 (d, 1H), 8.59 (d, 1H), 8.80 (s, 1H); MS m/z (relative intensity) 271 (M+, 20), 212 (30), 171 (100).

reactant | 3-pyridin-3-yl-phenol | 5.0 mmol, 0.86 g | N1=CC(=CC=C1)C=1C=C(C=CC1)O | C11H9NO
reactant | methyl 2-bromoisobutyrate | 20.0 mmol, 3.60 g | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | K2CO3 | 20.0 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 40 mL | [Cl-].[Na+].O
product | 2-methyl-2-(3-pyridin-3-yl-phenoxy)-propionic acid methyl ester | 1.09 g, 80% | COC(C(C)(OC1=CC(=CC=C1)C=1C=NC=CC1)C)=O | C16H17NO3
